US07387845B2
In a nitrogen flow, 160 mg (0.282 mmol) of palladium bis(benzylideneacetone) and 170 mg (0.846 mmol) of tri-tert-butylphosphine were dissolved in 40 ml of toluene and then stirred for 15 minutes at room temperature. Then, 0.58 g (1.27 mmol) of 4,4′-dibromo-2,2′,3,3′,5,5′,6,6′-octafluoro-1,1′-biphenyl dissolved in 50 ml of toluene was dropped into the mixture and it was stirred for 30 minutes. Furthermore, 0.34 g (1.27 mmol) of N-(9-anthracenyl)-N-phenylamine was dissolved in 50 ml of toluene and was then dropped therein, followed by the addition of 0.18 g (1.91 mmol) of sodium tert-butoxide. Then, the mixture was heated and stirred for about 8 hours in an oil bath heated at 120° C. After returning the reaction solution to room temperature, 50 ml of water was added thereto and the resultant solution was then separated into an aqueous layer and an organic layer. Furthermore, the aqueous layer was extracted with toluene and ethyl acetate, and was then combined with the previous organic layer and dried with magnesium sulfate. The solvent was evaporated and then the residue was purified by silicagel-column chromatography (toluene:hexane=1:2) to obtain 0.55 g of 4-bromo-4′-[N-(9-anthracenyl)-N-phenylamino]-2,2′,3,3′,5,5′,6,6′-octafluoro-1,1′-biphenyl.

reactant | tri-tert-butylphosphine | 0.846 mmol, 170 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 4,4′-dibromo-2,2′,3,3′,5,5′,6,6′-octafluoro-1,1′-biphenyl | 1.27 mmol, 0.58 g | BrC1=C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1F)F)Br)F)F)F)F | C12Br2F8
reactant | N-(9-anthracenyl)-N-phenylamine | 1.27 mmol, 0.34 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)NC1=CC=CC=C1 | C20H15N
reactant | sodium tert-butoxide | 1.91 mmol, 0.18 g | CC(C)([O-])C.[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium bis(benzylideneacetone) | 0.282 mmol, 160 mg | C(C1=CC=CC=C1)=CC(C)=O.C(C1=CC=CC=C1)=CC(C)=O.[Pd]
solvent | water | 50 ml | O | H2O
product | 4-bromo-4′-[N-(9-anthracenyl)-N-phenylamino]-2,2′,3,3′,5,5′,6,6′-octafluoro-1,1′-biphenyl | 0.55 g | BrC1=C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1F)F)N(C1=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12)F)F)F)F | C32H14BrF8N
